US08034533B2
Synthesis of Silver 5-chloro-4-nitrothiophene-2-sulfonate
To a solution of 5-chloro-4-nitrothiophene-2-sulfonyl chloride (0.393 g, 1.5 mmol) in 15 mL of acetonitrile and 2 mL of water was added silver carbonate (0.414 g, 1.5 mmol) in portions in darkness. The resulting suspension was stirred overnight for 3 days, until no starting material is shown on the thin layer chromatography with an eluant of hexane/ethyl acetate (1:4). The mixture was filtered through half an inch of Celite® and the solid was washed with 3×15 mL acetonitrile. The organic filtrate was combined and organic solvent was removed via rotary evaporator to dryness and thus afforded 0.507 g of viscous solid with a yield of 96.4%. The resulting compound was not purified for further reactions. 1HNMR, d6-DMSO: 7.49 (d, 1H, 0.8 Hz)

reactant | 5-chloro-4-nitrothiophene-2-sulfonyl chloride | 1.5 mmol, 0.393 g | ClC1=C(C=C(S1)S(=O)(=O)Cl)[N+](=O)[O-] | C4HCl2NO4S2
reactant | silver carbonate | 1.5 mmol, 0.414 g | C([O-])([O-])=O.[Ag+2]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | water | 2 mL | O | H2O
product | Silver 5-chloro-4-nitrothiophene-2-sulfonate | yield of 96.4% | ClC1=C(C=C(S1)S(=O)(=O)[O-])[N+](=O)[O-].[Ag+] | InChI=1S/C4H2ClNO5S2.Ag/c5-4-2(6(7)8)1-3(12-4)13(9,10)11;/h1H,(H,9,10,11);/q;+1/p-1
